US07547789B2
1-tert-Butoxycarbonyl-4-piperidone (15 g, 75.28 mmol) was dissolved in ethanol (150 ml) and treated with 70% ethylamine/H2O (6.06 ml, 75.29 mmol), followed by 5% Pt/C JM type 117 (2.25 g, 20 wt %). The reaction mixture was subjected to hydrogenation at 2 bar, 50° C. with stiring for 4 hours. The reaction mixture was purged with nitrogen and filtered through GF/F filter paper. The catalyst was washed with ethanol (2×15 ml). The liquors were combined and evaporated to dryness to give N-(1-tert-butoxycarbonyl-4-piperidinyl)ethylamine as a colourless oil (18.33 g, 107%).

reactant | 1-tert-Butoxycarbonyl-4-piperidone | 75.28 mmol, 15 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | ethylamine H2O | 75.29 mmol, 6.06 ml | C(C)N.O
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | Pt/C | [Pt] | Pt
product | N-(1-tert-butoxycarbonyl-4-piperidinyl)ethylamine | 18.33 g, 107% | C(C)(C)(C)OC(=O)N1CCC(CC1)CCN | C12H24N2O2
